US07872021B2
(2S)-2,3-dihydro-1-[(3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-yl)sulfonyl]indole-2-carboxylic acid
1 g (6.13 mmol) of 2,3-dihydro-(2S)-1H-indole-2-carboxylic acid, and 0.97 g (7.05 mmol) of potassium carbonate are solubilised in 2 ml of water. 1.6 g (6.13 mmol) of 3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-sulfonyl chloride solubilised in 12 ml of acetonitrile and 2 ml of water are added. Agitation is allowed to take place for 5 hours at ambient temperature. Water is added to the reaction medium, washing is performed with ethyl acetate, the acidity of the aqueous phase is raised to pH 3 by a solution of hydrochloric acid 1 N, and then extraction is performed using ethyl acetate. The organic phases are collected, dried on magnesium sulfate, filtered and concentrated under reduced pressure. The evaporation residue is purified by silica column chromatography eluting with the help of a dichloromethane/methanol (9/1; v/v) mixture. The expected product is obtained in the form of a beige foam with a yield of 73%.

reactant | 2,3-dihydro-(2S)-1H-indole-2-carboxylic acid | 6.13 mmol, 1 g | N1[C@@H](CC2=CC=CC=C12)C(=O)O | C9H9NO2
reactant | potassium carbonate | 7.05 mmol, 0.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-sulfonyl chloride | 6.13 mmol, 1.6 g | CC1(OC2=C(CC1)C=C(C=C2)S(=O)(=O)Cl)C | C11H13ClO3S
solvent | water | 2 ml | O | H2O
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
solvent | water | 2 ml | O | H2O
product | (2S)-2,3-dihydro-1-[(3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-yl)sulfonyl]indole-2-carboxylic acid | yield of 73% | CC1(OC2=C(CC1)C=C(C=C2)S(=O)(=O)N2[C@@H](CC1=CC=CC=C21)C(=O)O)C | C20H21NO5S
